US08912219B2
To a solution of cyclobutanamine (1.26 mL, 14.7 mmol) and 4-(4-acetylpiperazin-1-yl)-2-fluoro-benzaldehyde (3.68 g, 14.7 mmol) in dichloroethane (50 mL) was added sodium triacetoxyborohydride (4.39 g, 20.6 mmol) followed by acetic acid (0.84 mL, 14.7 mmol) and the reaction was stirred at ambient temperature for 16 hours. 1 N aqueous NaOH was then added to basify the reaction and the product was extracted with Et2O (x3), washed with brine, dried with MgSO4, concentrated and dried in vacuo to give 1-[4-[4[(cyclobutylamino)methyl]-3-fluoro-phenyl]piperazin-1-yl]ethanone (4.76 g, 99% yield). The product was used without purification. LCMS (m/z) ES+ 306 [M+1]+.

reactant | cyclobutanamine | 14.7 mmol, 1.26 mL | C1(CCC1)N | C4H9N
reactant | 4-(4-acetylpiperazin-1-yl)-2-fluoro-benzaldehyde | 14.7 mmol, 3.68 g | C(C)(=O)N1CCN(CC1)C1=CC(=C(C=O)C=C1)F | C13H15FN2O2
reactant | sodium triacetoxyborohydride | 20.6 mmol, 4.39 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 14.7 mmol, 0.84 mL | C(C)(=O)O | C2H4O2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | 1-[4-[4[(cyclobutylamino)methyl]-3-fluoro-phenyl]piperazin-1-yl]ethanone | 4.76 g, 99% yield | C1(CCC1)NCC1=C(C=C(C=C1)N1CCN(CC1)C(C)=O)F | C17H24FN3O
